US09403807B2
Step B: N-(1-(1-(4-chlorophenyl)-1-(3-methyl-1,2,4-oxadiazol-5-yl)propyl)-1H-indol-4-yl)methanesulfonamide
A solution of 2-(4-chlorophenyl)-N-(1-(hydroxyimino)ethyl)-2-(4-(methylsulfonamido)-1H-indol-1-yl)butanamide (148 mg, 0.32 mmol) in THF (5 mL) was heated at 70° C. for 2 days. Then the solvent was removed in vacuo to afford the crude product. The product was purified by column chromatography (50% EtOAc/hexanes), then by chiral separation following the conditions below provided the title compound as a single enantiomer.

reactant | 2-(4-chlorophenyl)-N-(1-(hydroxyimino)ethyl)-2-(4-(methylsulfonamido)-1H-indol-1-yl)butanamide | 0.32 mmol, 148 mg | ClC1=CC=C(C=C1)C(C(=O)NC(C)=NO)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H23ClN4O4S
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(1-(1-(4-chlorophenyl)-1-(3-methyl-1,2,4-oxadiazol-5-yl)propyl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CC)(C1=NC(=NO1)C)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H21ClN4O3S
